US06297239B1
Step A: Preparation of 4-(5-Azidomethyl-imidazol-1-ylmethyl)-2-(2-chloro-phenoxy)-benzonitrile
To a solution of 2-(2-chloro-phenoxy)-4-(5-hydroxymethyl-imidazol-1-ylmethyl)-benzonitrile hydrochloride, as described in Example 15, (0.07 g, 0.186 mmol) in CH2Cl2 (4.0 mL), and triethylamine (0.078 mL, 0.558 mmol) at 0° C. was added methanesulfonyl chloride (0.016 mL, 0.205 mmol). The cooling bath was removed and the mixture was stirred for 1 hr. To this solution was added sodium azide (0.018 g, 0.277 mmol) in DMF (1.0 mL). After 1 hr. the reaction mixture was partitioned between EtOAc and saturated NaHCO3 solution. The EtOAc layer was washed with H2O, brine, and dried (MgSO4). Filtration and concentration in vacuo gave the title product which was used in the next step without further purification.

reactant | 2-(2-chloro-phenoxy)-4-(5-hydroxymethyl-imidazol-1-ylmethyl)-benzonitrile hydrochloride | Cl.ClC1=C(OC2=C(C#N)C=CC(=C2)CN2C=NC=C2CO)C=CC=C1
reactant | triethylamine | 0.558 mmol, 0.078 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.205 mmol, 0.016 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium azide | 0.277 mmol, 0.018 g | [N-]=[N+]=[N-].[Na+]
solvent | CH2Cl2 | 4.0 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 4-(5-Azidomethyl-imidazol-1-ylmethyl)-2-(2-chloro-phenoxy)-benzonitrile | N(=[N+]=[N-])CC1=CN=CN1CC1=CC(=C(C#N)C=C1)OC1=C(C=CC=C1)Cl | C18H13ClN6O
